US07253158B2
Cyclopropanecarboxylic acid (4-{[(4-chloro-benzenesulfonyl)-((R)-2-oxo-azepan-3-yl)-amino]-methyl}-phenyl)-amide
N-(4-Amino-benzyl)-4-chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide (0.024 g, 0.06 mmol) was dissolved in CH2Cl2 (1 ml) and Hünig's base (0.01 ml, 0.07 mmol) and cyclopropanecarbonyl chloride (0.007 ml, 0.07 mmol) were added. After 30 min at r.t. the solvent was removed under reduced pressure and the residue dissolved in ethyl acetate and washed with 5% KHSO4/10% K2SO4, brine, dried (Na2SO4), filtered and concentrated. The crude was purified using preparative RP(C18) chromatography: lyophilisate 9 mg; MS: m/e=493.4 (MNH4+).

reactant | N-(4-Amino-benzyl)-4-chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide | 0.06 mmol, 0.024 g | NC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)Cl)[C@H]2C(NCCCC2)=O)C=C1 | C19H22ClN3O3S
reactant | Hünig's base | 0.07 mmol, 0.01 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanecarbonyl chloride | 0.07 mmol, 0.007 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | Cyclopropanecarboxylic acid (4-{[(4-chloro-benzenesulfonyl)-((R)-2-oxo-azepan-3-yl)-amino]-methyl}-phenyl)-amide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1C(NCCCC1)=O)CC1=CC=C(C=C1)NC(=O)C1CC1 | C23H26ClN3O4S
